US06048894
(3) Preparation of tert-butyl (2RS,3RS)-3-amino-2-{5-(ethoxycarbonyl)-2-furylmethyl}butanoate
To 1.65 g of tert-butyl (2RS,3SR)-2-{5-(ethoxycarbonyl)-2-furylmethyl}-3-hydroxybutanoate in 40 ml of tetrahydrofuran, 2.32 g of triphenylphosphine, 1.40 ml of diethyl azodicarboxylate and 2.43 g of diphenylphosphoryl azide were added successively under cooling with ice under stirring, and the resulting reaction solution was stirred at room temperature for 18 hours. The reaction solution was evaporated to dryness under reduced pressure, and the residue was purified by silica gel column chromatography [hexane/ethyl acetate=12/1→3/1]. The resulting azide was refluxed together with 2.33 g of triphenylphosphine in 33 ml of 10% hydrous tetrahydrofuran under heating for 3 hours. The reaction solution was cooled to room temperature, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography [hexane/ethyl acetate=1/1→ethyl acetate/methanol=10/1] to give 686 mg of the title compound as a pale yellow oily substance.

reactant | tert-butyl (2RS,3SR)-2-{5-(ethoxycarbonyl)-2-furylmethyl}-3-hydroxybutanoate | 1.65 g | C(C)OC(=O)C1=CC=C(O1)CC(C(=O)OC(C)(C)C)C(C)O | C16H24O6
reactant | triphenylphosphine | 2.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.40 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphoryl azide | 2.43 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | tert-butyl (2RS,3RS)-3-amino-2-{5-(ethoxycarbonyl)-2-furylmethyl}butanoate | 686 mg | NC(C(C(=O)OC(C)(C)C)CC=1OC(=CC1)C(=O)OCC)C | C16H25NO5
